US05298520
3-(2-Aminoethyl)-5-(1-methyltetrazol-5-yl)benzo[b]thiophene.
Following the procedure of Example 11, Step 7, 26.1 mg (0.102 mmol) of 3-cyanomethyl-5-(1-methyltetrazol-5-yl)benzo[b]thiophene in 2 ml of THF was reacted with 0.36 ml (0.36 mmol) of 1.0M borane-tetrahydrofuran complex in THF. Chromatography on flash silica, eluting with CH2Cl2 /MeOH/NH3 (aq) (60:8:1) gave 17.7 mg (67%) of the title product as a colourless oil. The oxalate salt was prepared using oxalic acid in methanol/ether to give the title product oxalate as a white solid, m.p. 206°-212° C. Analysis found: C, 47.55; H, 4.05; N, 19.65%. Calcd for C12H13N5S. 1.1 C2H2O4 : C, 47.59; H, 4.28; N, 19.54%. δ (D2O) 3.32-3.35 (2H, m), 3.40-3.44 (2H, m), 4.22 (3H, s), 7.64 (1H, s), 7.73 (1H, d, J=8.4 Hz), 8.19 (1H, s), 8.22 (1H, d, 8.5 Hz).

reactant | 3-cyanomethyl-5-(1-methyltetrazol-5-yl)benzo[b]thiophene | 0.102 mmol, 26.1 mg | C(#N)CC=1C2=C(SC1)C=CC(=C2)C2=NN=NN2C | C12H9N5S
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-(2-Aminoethyl)-5-(1-methyltetrazol-5-yl)benzo[b]thiophene | 17.7 mg, 67% | NCCC=1C2=C(SC1)C=CC(=C2)C2=NN=NN2C | C12H13N5S
